US06441017B1
Step B: 2-(3-Hydroxyphenyl)nitrobenzene
2-(3-Methoxyphenyl)nitrobenzene, as described above in Step A, (8.6 g, 37.52 mmol) was dissolved in CH2Cl2 (500 mL) and cooled to −78° C. BBr3 (1.0 M sol. in CH2Cl2, 43 mL, 43 mmol) was slowly added and the reaction was warmed to ambient temperature and stirred for 18 hours. The reaction was partitioned between saturated aqueous NaHCO3 and CH2Cl2 and extracted with CH2Cl2 (3×). The combined organic extracts were dried over Na2SO4, filtered and concentrated in vacuo, to yield the above-titled compound.

reactant | 2-(3-Methoxyphenyl)nitrobenzene | COC=1C=C(C=CC1)C1=C(C=CC=C1)[N+](=O)[O-] | C13H11NO3
reactant | BBr3 | 43 mmol, 1.0 M, 43 mL | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 500 mL | C(Cl)Cl | CH2Cl2
product | 2-(3-Hydroxyphenyl)nitrobenzene | OC=1C=C(C=CC1)C1=C(C=CC=C1)[N+](=O)[O-] | C12H9NO3
